.subckt cfoa in+ in- out
* 1. Input Buffer (Unity Gain)
B3 in_buf 0 v=V(in+)
Rin_sense in- in_buf 43

* 2. Error Current Sensor
B2 mirror 0 i=I(Rin_sense)
Rpole mirror 0 1Meg
Cpole mirror 0 0.4p

* 3. Transimpedance Gain Stage (Z(s))
* Ftrans mirrors the current from Vsense into the high-impedance node
B5 out_raw 0 v=1.3e6 * I(Rpole)
Rout out_raw out 10
.ends cfoa
